US09284331B2
1-methyl-5-(pyridin-4-yl)-3,4-dihydroisoquinoline
A mixture of 5-iodo-1-methyl-3,4-dihydroisoquinoline (3.0 g, 11.1 mmol), pyridin-4-ylboronic acid (2.04 g, 16.6 mmol), Pd(PPh3)2Cl2 (3.88 g, 5.53 mmol) and Cs2CO3 (10.8 g, 33.2 mmol) in 1,4-dioxane (45 mL) was heated to reflux for 24 h. The mixture was allowed to cool to RT, and then filtered. The filter cake was washed with AcOEt, and the filtrate was then concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, DCM to DCM/MeOH 9:1) to afford the title compound (1.82 g) as a grey solid. UPLC-MS: MS 223.0 (M+H+); UPLC rt 0.38 min.

reactant | 5-iodo-1-methyl-3,4-dihydroisoquinoline | 11.1 mmol, 3.0 g | IC1=C2CCN=C(C2=CC=C1)C | C10H10IN
reactant | pyridin-4-ylboronic acid | 16.6 mmol, 2.04 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Cs2CO3 | 33.2 mmol, 10.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 45 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 5.53 mmol, 3.88 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-methyl-5-(pyridin-4-yl)-3,4-dihydroisoquinoline | 1.82 g | CC1=NCCC2=C(C=CC=C12)C1=CC=NC=C1 | C15H14N2
